US04880838
Into a solution of sulfanilic acid (13.0 grams, 68 mmol) in water (68 milliliters) contained in a 250 milliliter round bottom flask equipped with a magnetic stirrer, internal thermometer and ice bath at 15° C. was added solid Na2CO3 (3.69 grams, 34 mmol) followed by a solution of NaNO2 (5.1 grams, 74 mmol) in water (14 milliliters). The latter addition caused a color change from milky-white to orange. A separate 500 milliliter three-necked flask equipped with a magnetic stirrer, internal thermometer and ice bath was charged with concentrated hydrochloric acid (12 milliliters), ice (68 grams) and the solution of the diazonium salt prepared above. This mixture was stirred at 15° C. for 45 minutes. Meanwhile a third flask (1 L) equipped with an internal thermometer, nitrogen inlet, condenser, addition funnel and mechanical stirrer was charged with water (68 milliliters), NaOH (14.96 grams, 318 mmol) and 2,3,6-trimethylphenol (9.30 grams, 68 mmol). This mixture was cooled to 0° C. by means of an ice-salt mixture and the diazonium salt - hydrochloric acid mixture prepared above was added dropwise while maintaining the temperature below 5° C. Upon completion of the diazonium salt addition the reaction mixture was warmed to 52° C. and solid Na2S2O4 (3.13 grams, 18 mmol) was added. Stirring was continued and the mixture heated to 80° C. whereupon additional Na2S2O4 (28.2 grams, 162 mmol) was added in three equal portions (9.4 grams each) at 5 minute intervals. The mixture was heated at 80° C. under nitrogen for 20 minutes, cooled to room temperature and filtered to afford the crude product as a yellow solid. The solid was dissolved in ethyl acetate (300 milliliters) and washed with water. The organic layer was dried over Na2SO4 and concentrated under reduced pressure to afford 4-amino-2,3,6-trimethylphenol in quantitative yield which was used successfully in subsequent reactions without further purification. H'-NMR (CDCl3) 6.30 (S, 1H), 2.11 (S, 9H).

reactant | sulfanilic acid | 68 mmol, 13.0 grams | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | Na2CO3 | 34 mmol, 3.69 grams | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaNO2 | 74 mmol, 5.1 grams | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 12 milliliters | Cl | ClH
reactant | NaOH | 318 mmol, 14.96 grams | [OH-].[Na+]
reactant | 2,3,6-trimethylphenol | 68 mmol, 9.30 grams | CC1=C(C(=CC=C1C)C)O | C9H12O
reactant | Na2S2O4 | 18 mmol, 3.13 grams | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | Na2S2O4 | 162 mmol, 28.2 grams | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | water | 68 milliliters | O | H2O
solvent | water | 14 milliliters | O | H2O
solvent | ethyl acetate | 300 milliliters | C(C)(=O)OCC | C4H8O2
solvent | water | 68 milliliters | O | H2O
product | 4-amino-2,3,6-trimethylphenol | quantitative yield | NC1=C(C(=C(C(=C1)C)O)C)C | C9H13NO
